US08030499B2
Step 91-1: Synthesis of 3-(1,3-benzodioxol-4-yl)-3-hydroxy-5-iodo-1,3-dihydro-2H-indol-2-one
With 2.70 g of 4-bromo-1,3-benzodioxol and 9.00 g of 5-iodoisatin as starting materials, 3.44 g of the title compound (orange color solid) was obtained by a similar method to Step 21-1.

reactant | 4-bromo-1,3-benzodioxol | 2.70 g | BrC1=CC=CC=2OCOC21 | C7H5BrO2
reactant | 5-iodoisatin | 9.00 g | IC=1C=C2C(C(NC2=CC1)=O)=O | C8H4INO2
product | 3-(1,3-benzodioxol-4-yl)-3-hydroxy-5-iodo-1,3-dihydro-2H-indol-2-one | 3.44 g | O1COC2=C1C=CC=C2C2(C(NC1=CC=C(C=C21)I)=O)O | C15H10INO4
